US06235763B1
20 g of 5-chloroindan-1-one are dissolved in 600 ml of dry toluene and, after addition of 27.4 ml of N,N-dimethylhydrazine and 1 g of p-toluenesulfonic acid, boiled with a water trap for 4 h. The reaction mixture is concentrated in vacuo, and the residue is dissolved in ethyl acetate and washed with sodium bicarbonate solution and then with water. The organic phase is dried over sodium sulfate and concentrated in vacuo, and the residue is chromatographed on silica gel with ethyl acetate/heptane ½. N′-(5-chloroindan-1-ylidene)-N,N-dimethylhydrazine is obtained as an oil.

reactant | 5-chloroindan-1-one | 20 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | N,N-dimethylhydrazine | 27.4 ml | CN(N)C | C2H8N2
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(5-chloroindan-1-ylidene)-N,N-dimethylhydrazine | ClC=1C=C2CCC(C2=CC1)=NN(C)C | C11H13ClN2
